US08791107B2
PREPARATION x44: 5-(4-(methylsulfonyl)benzyl)-2-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one
2-Chloro-5-(4-(methylsulfonyl)benzyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one (PREPARATION x38, 250 mg, 0.611 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine (487 mg, 1.223 mmol), and PdCl2(dppf) (35.8 mg, 0.049 mmol) were suspended in dioxane (2.5 mL) and aqueous saturated NaHCO3 (0.5 mL). The reaction mixture was heated in a microwave at 100° C. on high absorbance for 1 hour and was subsequently diluted with ethyl acetate and washed with aqueous saturated NH4Cl (3×2 mL) and brine (3×2 mL). The combined organic layers were dried over MgSO4, filtered, and concentrated in vacuo to give a crude product which was loaded onto an ISCO® silica gel cartridge (4 g) and eluted using an ethyl acetate/hexane gradient. The product was collected and concentrated in vacuo to afford the title compound as a yellow foam (205 mg, 52%). ESI-MS m/z [M+H]+ calc'd for C31H28N6O6S2, 645.15. found 645.5.

reactant | 2-Chloro-5-(4-(methylsulfonyl)benzyl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 0.611 mmol, 250 mg | ClC1=NC=2N3C(C(N(C2C=N1)CC1=CC=C(C=C1)S(=O)(=O)C)=O)COCC3 | C17H17ClN4O4S
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine | 1.223 mmol, 487 mg | CC1(OB(OC1(C)C)C1=C2C(=NC=C1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)C | C20H23BN2O4S
reactant | NaHCO3 | 0.5 mL | C(=O)(O)[O-].[Na+]
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | PdCl2(dppf) | 0.049 mmol, 35.8 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-(4-(methylsulfonyl)benzyl)-2-(1-tosyl-1H-pyrrolo[2,3-b]pyridin-4-yl)-6a,7,9,10-tetrahydro-[1,4]oxazino[3,4-h]pteridin-6(5H)-one | 205 mg, 52% | CS(=O)(=O)C1=CC=C(CN2C=3C=NC(=NC3N3C(C2=O)COCC3)C3=C2C(=NC=C3)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)C=C1 | C31H28N6O6S2
